data/mechanism_extracts/ACSOmega/10.1021_acsomega.9b02442.json
{"doi": "10.1021_acsomega.9b02442", "journal": "ACSOmega", "is_review": false, "rxn_class_summary": "Electrochemical alkoxysulfonylation of α-substituted styrenes with sodium arenesulfinates and alcohols to give β-alkoxysulfones via radical-polar crossover", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of sodium 4-methylbenzenesulfinate to a sulfonyl radical; subsequent anodic oxidation of the benzylic C-radical adduct to a benzylic cation; cathode reduces protons to H2", "key_intermediates": [{"name": "sulfinate-centered O-radical (A)", "smiles": null, "role": "transient"}, {"name": "sulfonyl radical (B, ArSO2•)", "smiles": "O=S(=O)(c1ccc(C)cc1)[*]", "role": "reactive"}, {"name": "benzylic C-radical adduct (C) from sulfonyl radical addition to styrene", "smiles": null, "role": "reactive"}, {"name": "benzylic carbocation (D) after anodic oxidation of C", "smiles": null, "role": "reactive"}, {"name": "protonated β-alkoxysulfone (E) after MeOH attack on D", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes ArSO2Na to a sulfonyl radical (via O-radical tautomer), which adds to the styrene C=C to give a benzylic radical; this radical is further oxidized at the anode to a benzylic cation that is trapped by methanol, while the cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Addition of 3 equiv TEMPO completely inhibited the reaction (0% yield of 3a) with α-methylstyrene 1a largely recovered, indicating a radical pathway"}], "evidence_types_used": ["intermediate_trap_TEMPO", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Competing hydroxysulfonylation (with water as nucleophile) is observed when isopropanol is used, lowering yield to 29%. Mechanism is proposed based on TEMPO inhibition plus literature precedent (refs 13b, 14, 15); no DFT, CV, or KIE reported."}
